US06982259B2
To an ice water-cooled solution of (3S)-3-(4-aminophenoxy)piperidine (3.5 g) in DMF (20 mL) was added K2CO3 (7.5 g) and Nal (0.2 g), followed by the addition of 5-chloromethyl-1,3-benzodioxole (4.7 mL). The resulting reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with ethyl acetate (200 mL), washed with water (100 mL×3) and brine (100 mL), and dried (Na2SO4). The crude product was further purified by column chromatography (methanol:ethyl acetate1:10), to afford (3S)-3-(4-aminophenoxy)-1-[(1,3-benzodioxol-5-yl)methyl]piperidine (4.4 g, 74% yield) as an oil.

reactant | (3S)-3-(4-aminophenoxy)piperidine | 3.5 g | NC1=CC=C(O[C@@H]2CNCCC2)C=C1 | C11H16N2O
reactant | K2CO3 | 7.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-chloromethyl-1,3-benzodioxole | 4.7 mL | ClCC1=CC2=C(OCO2)C=C1 | C8H7ClO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | Nal | 0.2 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
product | (3S)-3-(4-aminophenoxy)-1-[(1,3-benzodioxol-5-yl)methyl]piperidine | 4.4 g, 74% yield | NC1=CC=C(O[C@@H]2CN(CCC2)CC2=CC3=C(OCO3)C=C2)C=C1 | C19H22N2O3
